US07745630B2
Preparation 14: (3-Methyl-isoxazol-5-yl)-acetoyl chloride
N,N-Dimethylformamide (few drops), followed by oxalyl chloride (9.5 mL, 106 mmol) were added dropwise to a cooled (10° C.) solution of (3-methyl-isoxazol-5-yl)-acetic acid (5 g, 35.4 mmol) in dichloromethane (50 mL), and the solution was allowed to warm to room temperature. The reaction was stirred for a further 3 hours, then concentrated under reduced pressure. The residue was azeotroped with toluene to afford the title compound.

reactant | N,N-Dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 106 mmol, 9.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3-methyl-isoxazol-5-yl)-acetic acid | 35.4 mmol, 5 g | CC1=NOC(=C1)CC(=O)O | C6H7NO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (3-Methyl-isoxazol-5-yl)-acetoyl chloride | CC1=NOC(=C1)CC(=O)Cl | C6H6ClNO2
